US05550125
4.2. Ethyl (±)-6-chloro-3,4-dihydro-2H-1,4-benzoxazine-3-acetate.
420 ml of ethanol are introduced into a 3 litre reactor, with magnetic stirring, cooled to 0° C., and 3.8 g (0.166 mol) of sodium are added slowly, in small portions, followed by successive and dropwise addition of 40 g (0.166 mol) of N-(5-chloro-2-hydroxyphenyl)trifluoroacetamide and 40 g (0.155 mol) of 75% pure ethyl 4-bromo-2-butenoate, and the mixture is heated at 85° C. for 2 hours. The solvent is evaporated off and the residue is taken up in 100 ml of water and 40 ml of 1N sodium hydroxide and extracted with diethyl ether. The organic phase is separated out, washed with saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated. 28.58 g of product are obtained, which product is purified by chromatography on a column of silica gel, eluting with a cyclohexane/isopropyl ether (1/1 ratio) mixture.

reactant | sodium | 0.166 mol, 3.8 g | [Na] | Na
reactant | N-(5-chloro-2-hydroxyphenyl)trifluoroacetamide | 0.166 mol, 40 g | ClC=1C=CC(=C(C1)NC(C(F)(F)F)=O)O | C8H5ClF3NO2
reactant | ethyl 4-bromo-2-butenoate | 0.155 mol, 40 g | BrCC=CC(=O)OCC | C6H9BrO2
solvent | ethanol | 420 ml | C(C)O | C2H6O
product | Ethyl (±)-6-chloro-3,4-dihydro-2H-1,4-benzoxazine-3-acetate | 28.58 g | ClC=1C=CC2=C(NC(CO2)CC(=O)OCC)C1 | C12H14ClNO3
